US09334278B2
A mixture of 2-bromo-N-tert-butyl-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (80 mg, 269 μmol), 2-amino-N,N-dimethylbenzamide hydrochloride (81.0 mg, 404 μmol), BINAP (8.38 mg, 13.5 μmol), palladium (II) acetate (15.1 mg, 67.3 μmol) and sodium tert-butoxide (77.6 mg, 808 μmol, Eq: 3) in DMF (1 mL) and toluene (500 μL) was heated in a microwave at 140° C. for 20 min. The reaction mixture was diluted with water then extracted into ethyl acetate (3×). The combined organic extracts were washed with brine then dried over magnesium sulfate. Purification by chromatography (15-45% dichloromethane/[10% dichloromethane/methanol/0.5% ammonium hydroxide]) gave N-tert-butyl-2(2(dimethylcarbamoyl)phenylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (16 mg, 42.1 μmol, 16%) as an off-white solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.25 (s, 1H), 8.77 (s, 1H), 8.06 (s, 1H), 7.96 (d, J=3.0, 1 H), 7.91 (d, J=7.9, 1 H), 7.78 (s, 1H), 7.38 (t, J=7.7, 1 H), 7.30 (d, J=7.5, 1 H), 7.11 (t, J=7.5, 1 H), 2.88 (s, 3H), 2.80 (s, 3H), 1.27 (s, 9H); MS (EI/CI) m/z: 381.2 [M+H].

reactant | 2-bromo-N-tert-butyl-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 269 μmol, 80 mg | BrC=1N=C2C(=NC1)NC=C2C(=O)NC(C)(C)C | C11H13BrN4O
reactant | 2-amino-N,N-dimethylbenzamide hydrochloride | 404 μmol, 81.0 mg | Cl.NC1=C(C(=O)N(C)C)C=CC=C1
reactant | BINAP | 13.5 μmol, 8.38 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 808 μmol, 77.6 mg | CC(C)([O-])C.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | toluene | 500 μL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | palladium (II) acetate | 67.3 μmol, 15.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-tert-butyl-2(2(dimethylcarbamoyl)phenylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 42.1 μmol, 16 mg, 16% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC2=C(C=CC=C2)C(N(C)C)=O | C20H24N6O2
